US09422262B2
2-bromo-N-(3-nitrophenyl)benzamide
2-Bromobenzoic acid (5.02 g, 25.0 mmol) was sealed in a 250 mL flask with stir bar under nitrogen. Dichloromethane (72 mL) was then added and the solution was cooled on ice. Oxalyl chloride (2.19 ml, 25.0 mmol) and N,N-dimethylformamide (17 μL, 0.22 mmol) were added, and the reaction was removed from the ice bath and the resulting suspension was stirred for 20 h with a vent to an oil bubbler. After this time, the pale yellow solution was cooled on ice, then pyridine (4.04 ml, 50.0 mmol) and 3-nitroaniline (3.00 g, 21.7 mmol) were added. The reaction was then removed from the ice bath, and a water condenser was attached to the flask. The reaction was heated in an oil bath at 45° C., and after 1 h LC-MS analysis showed the reaction to be complete. The reaction was diluted with ethyl acetate (250 mL) and 1 M aqueous HCl (100 mL), then the layers were separated and the organic phase was washed again with aqueous HCl, then twice with half-saturated aqueous NaHCO3, then brine. The organics were dried over Na2SO4, filtered, and concentrated to a yellow solid, which was dried and pulverized several times, yielding the title compound (6.89 g, 99%). LRMS (ESI+) (M+H): 321.01.

reactant | 2-Bromobenzoic acid | 25.0 mmol, 5.02 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | Oxalyl chloride | 25.0 mmol, 2.19 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 50.0 mmol, 4.04 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-nitroaniline | 21.7 mmol, 3.00 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1 M, 100 mL | Cl | ClH
catalyst | N,N-dimethylformamide | 0.22 mmol, 17 μL | CN(C=O)C | C3H7NO
solvent | Dichloromethane | 72 mL | ClCCl | CH2Cl2
product | 2-bromo-N-(3-nitrophenyl)benzamide | 6.89 g, 99% | BrC1=C(C(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C=CC=C1 | C13H9BrN2O3
